US03950528
3-Amino-1-(3-ethoxy-4-chlorobenzyl)-pyrazol-5-one ##SPC44##
45.5 g of 4-chloro-3-ethoxybenzylhydrazine were added, under nitrogen, to a solution of 35 g of β-amino-β-ethoxyacrylic acid ethyl ester and 1 g of p-toluenesulphonic acid in 200 ml of ethanol. After stirring overnight, the compound identified above, which had separated out as a precipitate, was filtered off and recrystallised from ethanol. Melting point: 143°, 15.2 g (26%).

reactant | 4-chloro-3-ethoxybenzylhydrazine | 45.5 g | ClC1=C(C=C(CNN)C=C1)OCC | C9H13ClN2O
reactant | β-amino-β-ethoxyacrylic acid ethyl ester | 35 g | C(C)OC(C=C(OCC)N)=O | C7H13NO3
reactant | p-toluenesulphonic acid | 1 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 3-Amino-1-(3-ethoxy-4-chlorobenzyl)-pyrazol-5-one | NC=1NN(C(C1)=O)CC1=CC(=C(C=C1)Cl)OCC | C12H14ClN3O2
